US05318966
4.06 g (0.020 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole were dissolved in 80 ml of CH2Cl2, 3.35 ml (0.024 mol) of triethylamine were added thereto and a solution of 3.7 ml (0.024 mol) of 3-cyclopentylpropionyl chloride in 40 ml of CH2Cl2 was added dropwise thereto at 20° under argon. The mixture was stirred at room temperature for 1 hour, then poured into water and extracted with CH2Cl2. The organic phase was washed with saturated aqueous NaHCO3 and NaCl solutions, dried with MgSO4, filtered and concentrated. By chromatography of the residue over silica gel with n-hexane/ethyl acetate 1:1 there were obtained 4.75 g (72.5%) of rac-cis-3-(3-cyclopentyl-propionyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole as a pale yellow, oily material.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.020 mol, 4.06 g | COC1=CC=CC=2[C@H]3CCN[C@H]3CCC21 | C13H17NO
reactant | triethylamine | 0.024 mol, 3.35 ml | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopentylpropionyl chloride | 0.024 mol, 3.7 ml | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | rac-cis-3-(3-cyclopentyl-propionyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 4.75 g, 72.5% | C1(CCCC1)CCC(=O)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C21H29NO2
